US05081271
a) 2-(4-Bromo-2-trimethylsilyloxyphenyl)-2-methyl-1,3-dioxolane
Under ice-cooling, to a solutin of 3.11 g (12 mmol) of 2-(2-hydroxy-4-bromophenyl)-2-methyl-1,3-dioxolane in 24 ml of tetrahydrofuran were added dropwise successively, 1.84 ml (13.2 mmol) of triethylamine and 1.68 ml (13.2 mmol) of trimethylsilyl chloride with stirring. The mixture was stirred at room temperature for 3 hours and filtered. The filtrate was concentrated under reduced pressure to give 4.0 g of the crude product.

reactant | 2-(2-hydroxy-4-bromophenyl)-2-methyl-1,3-dioxolane | 12 mmol, 3.11 g | OC1=C(C=CC(=C1)Br)C1(OCCO1)C | C10H11BrO3
reactant | triethylamine | 13.2 mmol, 1.84 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 13.2 mmol, 1.68 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 2-(4-Bromo-2-trimethylsilyloxyphenyl)-2-methyl-1,3-dioxolane | 4.0 g | BrC1=CC(=C(C=C1)C1(OCCO1)C)O[Si](C)(C)C | C13H19BrO3Si
